US05536718
N-[4-(5H-Pyrrolo[2,1-c ][1,4]benzodiazepin-10(11H) -ylcarbonyl)phenyl]-2-(morpholino)-pyridine-3-carboxamide
Using the conditions of Example 334 and 1 g of N-[4-(5H-pyrrolo[2, 1-c][1,4]benzodiazepin-10(11H) -ylcarbonyl)-phenyl]-2-chloropyridine-3-carboxamide and 5 ml of morpholine gives 800 mg of the desired product: M+ =493.

reactant | N-[4-(5H-pyrrolo[2, 1-c][1,4]benzodiazepin-10(11H) -ylcarbonyl)-phenyl]-2-chloropyridine-3-carboxamide | 1 g | C=1C=CN2C1CN(C1=C(C2)C=CC=C1)C(=O)C1=CC=C(C=C1)NC(=O)C=1C(=NC=CC1)Cl | C25H19ClN4O2
reactant | morpholine | 5 ml | N1CCOCC1 | C4H9NO
product | N-[4-(5H-Pyrrolo[2,1-c ][1,4]benzodiazepin-10(11H) -ylcarbonyl)phenyl]-2-(morpholino)-pyridine-3-carboxamide | 800 mg | C=1C=CN2C1CN(C1=C(C2)C=CC=C1)C(=O)C1=CC=C(C=C1)NC(=O)C=1C(=NC=CC1)N1CCOCC1 | C29H27N5O3
